US05459138
Stage A: 3-Amino-2,6-dichloropyridine
4 g of 2,6-dichloro-3-nitropyridine are added to a suspension of 8 g of reduced iron in 200 cm3 of a water/alcohol (50/50) solution containing 1.6 g of NH4Cl. The suspension is brought to reflux for 1 hour. The insoluble material is then removed by filtration. The filtrate is treated with 0.4 g of Na2SO3 and 0.4 g of NaH2PO2. The solution is adjusted to a pH of 8 and the alcohol is concentrated under reduced pressure until precipitation. The crystals corresponding to 3-amino-2,6- dichloropyridine are collected on a filter, washed with water and dried.

reactant | 2,6-dichloro-3-nitropyridine | 4 g | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | NH4Cl | 1.6 g | [NH4+].[Cl-]
solvent | MeOH acetone | 200 cm3 | CO.CC(=O)C
product | 3-Amino-2,6-dichloropyridine | NC=1C(=NC(=CC1)Cl)Cl | C5H4Cl2N2
